US09382237B2
2-cyano-3-((4-(4-isopropylpiperazin-1-yl)phenyl)amino)-3-(methylthio)acrylamide was then suspended in 10 mL EtOH and hydrazine hydrate (1 eq.) was added dropwise. Reaction was heated at 75° C. until intermediate was absent (HPLC). Once intermediate was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 5-amino-3-((4-(4-isopropylpiperazin-1-yl)phenyl)amino)-1H-pyrazole-4-carboxamide as a purple powder. Product was allowed to dry under vacuum for 1 hr.

reactant | 2-cyano-3-((4-(4-isopropylpiperazin-1-yl)phenyl)amino)-3-(methylthio)acrylamide | C(#N)C(C(=O)N)=C(SC)NC1=CC=C(C=C1)N1CCN(CC1)C(C)C | C18H25N5OS
reactant | hydrazine hydrate | 1 eq. | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-amino-3-((4-(4-isopropylpiperazin-1-yl)phenyl)amino)-1H-pyrazole-4-carboxamide | NC1=C(C(=NN1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)C)C(=O)N | C17H25N7O
